Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
Seizure versus syncope 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The patient is a ___ year old female with minimal PMH except for 
depression and trauma from a car bomb in ___ who presents after 
several recent episodes of sycope versus seizure in the setting 
of emotional distress. She has no personal or family history of 
epilepsy, but did have possible head trauma from the car bomb.  
.  
Over the last few weeks, she has had several episodes in which 
she has lost consiousness with jerking movements for several 
minutes. This was witnessed by her friend several days ago, who 
gave CPR because she was unresponsive. She had another episode 
today while running away from home because she was upset. She 
was unresponsive and confused afterwards. She has not had loss 
of continence or tongue biting during the episodes. She does 
report hitting her head with one events this past week. She 
cannot recall any antecedent symptoms. No recent fevers. She is 
not on any medications and denies substance use.  
.  
Initial vitals in ED triage were T 98, HR 86, BP 112/68, RR 16, 
and SpO2 100% on 10L. Head and C-spine CT in the ED showed no 
acute process. CXR showed no acute process. Her labs were 
unremarkable including negative serum and urine toxicology 
screens. Her UA was not a clean catch with many epis. She was 
seen by Neurology in the ED. Her neuro exam was completely 
normal, and it was felt that her symptoms were more consistent 
with pseudoseizure. A routine 20 minute EEG was recommended.  
.  
She was admitted to medicine for further evaluation of syncope 
versus seizures. Vitals prior to floor transfer were T 98.2, HR 
92, BP 128/68, RR 16, and SpO2 100% on RA. On reaching the 
floor, she triggered for a possible seizure episode. She was 
arguing with her boyfriend, felt dizzy, slumped to the floor 
with assistance from her boyfriend, and was transferred to her 
bed. She then became stiff with shaking movements in her arms 
and legs. She was given Ativan 2 mg IV twice, with improvement. 
She was somewhat sleepy afterwards and said that she does not 
remember what happened. She did not have any incontinence or 
tongue biting. She urinated soon after thje event with a bedpan. 
Neurology consult was contacted, and will see her in the 
morning.  
.  
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea, or 
congestion. Denies cough or shortness of breath. Denies chest 
pain, pressure, tightness, or palpitations. Denies nausea, 
vomiting, diarrhea, constipation, or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria or hematuria. No 
rashes or concerning skin lesions. Denies arthralgias or 
myalgias. Review of systems was otherwise negative.  

 
Past Medical History:
# Trauma (___) -- car bomb in ___  
-- soft tissue injury and burns, lost consciousness  
# Depression  
# Possible PTSD  

 
Social History:
# Home: Lives alone. Has a boyfriend x ___ years. Denies domestic 
abuse. 
# Work: ___
# Education: Finished ___ grade. Speaks ___, and 
___.  
# Tobacco: Smokes 1 PPD for ___ years.  
# Alcohol: Once every other weekend.  
# Drugs: Used to smoke marijuana. None currently.

Born in ___.  Mother died of cancer. Father, 2 brothers, 2
sisters, and a cousin reportedly died from car accident.  
reports
she came to the ___ at age ___ with her brother in law who
reportedly was deported because he raped her, then he reportedly
was killed in ___.  She lives alone.  She was going to go to an
interview to be ___ today.  She reportedly finished ___
grade.  Reportedly speak ___, and ___.  Reports
long history of legal arrests s/t assault and batteries with and
without weapons.  No jail time; has been court mandated to
psychiatric treatment. 

 
Family History:
No family history of seizures, sudden cardiac death, or early 
CAD.  
# Mother: "brain cancer" in her ___.  
# Father: Killed in car bomb.  
# Siblings: Well  

 
Physical Exam:
Admission Physical:
VS: T 98.2, BP 115/72, HR 74, RR 20, SpO2 100% on RA, Wt 62.9 kg 
 
Gen: Young female in NAD. Oriented x3. Slightly lethargic after 
Ativan for possible seizure.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM, OP benign.  
Neck: Supple. JVP not elevated. No cervical lymphadenopathy.  
CV: RRR with normal S1, S2. No M/R/G.  
Chest: Respiration unlabored. CTAB without crackles, wheezes or 
rhonchi.  
Abd: Normal bowel sounds. Soft, NT, ND. No organomegaly or 
masses.  
Ext: WWP. Digital cap refill <2 sec. No C/C/E. Distal pulses 
intact radial 2+, DP 2+, ___ 2+.  
Skin: Multiple well healed burn scars.  
Neuro: CN II-XII grossly intact. Strength ___ in all 
extremities. No pronator drift. No cerebellar signs. Normal 
gait. Normal speech. 
 
Pertinent Results:
Admission Labs:
___ 03:44PM BLOOD WBC-7.8# RBC-4.15* Hgb-13.2 Hct-41.0 
MCV-99* MCH-31.7 MCHC-32.1 RDW-13.1 Plt ___
___ 03:44PM BLOOD Neuts-75.9* ___ Monos-3.9 Eos-1.7 
Baso-0.2
___ 03:44PM BLOOD Glucose-111* UreaN-14 Creat-0.5 Na-139 
K-3.9 Cl-104 HCO3-22 AnGap-17
___ 03:44PM BLOOD Calcium-9.6 Phos-3.1 Mg-2.1
___ 06:35AM BLOOD VitB12-175* Folate-14.7
. 
Discharge Labs: 
. 
Studies:
CXR ___:
IMPRESSION:  No acute cardiopulmonary abnormality.  No displaced 
rib fractures are noted, but if there is continued clinical 
concern for rib fracture, then a dedicated rib series can be 
obtained. 
 
CTAP ___:
IMPRESSION:  No acute intracranial process. 
 
CT c-spine ___:
IMPRESSION:  No fracture or malalignment of the cervical spine.
 
Micro ___ 6:35 am SEROLOGY/BLOOD
   RAPID PLASMA REAGIN TEST (Pending): 

___:
EEG:
IMPRESSION: This is a normal video-EEG monitoring session. There 
were 
three push button activations marking two non-epileptic events 
as 
described under pushbutton activations. Note is made of sinus 
tachycardia during the first event at the pick of body 
movements. 
Background activity was normal. There were no epileptiform 
discharges or 
electrographic seizures. 

___:
EEG
IMPRESSION: This is a normal video-EEG monitoring session. There 
were no 
push button activations, no epileptiform discharges and no 
electrographic seizures. Background activity showed a normal 
posterior 
dominant alpha rhythm. 

 
Brief Hospital Course:
BRIEF COURSE
___ with depression and bipolar disorder here with episodes of 
loss of consciousness accompanied by jerking motions of arms and 
legs concerning for seizure vs. pseudoseizure.
.
ACTIVE ISSUES
.
# Loss of consciousness/myoclonic jerking episodes: Patient 
presented with 1.5 months of episodes of loss of consciousness 
accompanied by whole body jerking movements. Episodes often 
accompanied by emotional outbursts. Start with blank stare and 
unresponsiveness, progress to automatic movements of head then 
involves rhythmic jerking of arms and legs. Patient is 
unresponsive during these episodes. They last for a few minutes 
but her oxygen saturation and vital signs remain stable, and 
there is no tongue biting or loss of bladder or bowel function. 
Episodes end with yawn and arching of back and return to 
awareness. She is groggy for a few minutes afterwards but is 
soon able to answer simple questions and follow commands. On her 
first day, she had ___ of these episodes. She initially received 
2mg IV ativan (total of 6mg over 24 hours) for the episodes but 
as her vitals remained stable and the episodes were short-lived, 
no further medications were administered. Spot EEG showed no 
epileptic focus. OSH records from recent psychiatric 
hospitalization at ___ suggests she presented for 
similar episodes a few weeks ago but no neurologic workup was 
done at that time as her fainting spells were felt to be related 
to emotional distress. She was seen by neurology and psychiatry 
here who felt she should undergo continuous EEG monitoring to 
rule out organic epileptiform seizures. 
.
# Chest pain/back pain: Endorsing point tenderness over low back 
and mid-sternum. Unclear if there is a history of trauma though 
by report, patient underwent CPR last week for one of her 
unresponsive episodes. Did not obtain imaging due to frequency 
of her lost of consciousness episodes and concern about her 
being off the floor unaccompanied.
.
# Bipolar disorder/Depression/PTSD: History of traumatic car 
bombing and per report, increased stressors in life recently 
including miscarriage which might be triggering these episodes. 
Not on medications currently but followed by 
psychiatrist/therapist as outpatient and has had multiple psych 
hospitalizations in the past. Patient was seen by social work 
and psychiatry during this stay.
. 
TRANSITIONAL ISSUES
# Needs psychiatry follow-up

____________________________

___ Course on Neurology:
Neuro:
Ms. ___ was placed on bedside EEG to characterize her events. 
She did have two events in the first 24 hours of recording and 
these were found to not have an EEG correlate. It was discussed 
with Ms. ___ that there can be events that are stress induced 
events and she was understanding and accepting of this. She 
expressed hope that they would resolve with time and treatment 
including relaxation techniques like guided imagery, progressive 
muscle relaxation as well as psychotherapy and possibly 
pharmacotherapy.

As Ms. ___ has an extensive system of mental health providers 
in place at ___, she is encouraged to keep up these 
connections. She will follow up with Dr. ___ in clinic 
as well as with Dr. ___ in ___ Care Associates. 

**Ms. ___ was noted to be B12 deficient and was started on 
supplementation at the time of discharge. A perscription was 
provided.
 
Medications on Admission:
none
 
Discharge Medications:
1. cyanocobalamin (vitamin B-12) 1,000 mcg Tablet Sig: One (1) 
Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
nonepileptic seizures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ on ___ for evaluation of your events of loss of consciousness 
and shaking concerning for seizures. You were monitored on 
telemetry and and EKGs to look for any abnormalities in your 
heart rates or heart rhythms and these were normal. You also 
were hooked up to EEG to see if these events were seizures. 
These events were captured on video and on EEG which looks at 
your brain waves and were found not be epileptic seizures. 

While these events are not epileptic seizures, you do lose 
consciousness with these and should not drive until these events 
are under full control and you have been cleared by a physician. 


We made the following changes to your medications:
Started B12 supplements 1000mcg daily

If you experience any of the below listed danger signs, please 
call your doctor or go to the nearest Emergency Department.
Dizziness or lightheadedness
Numbness or tingling
Change in vision
Confusion
Headache
Weakness in arm, leg, or face
Difficulty walking
Difficulty talking
Loss of balance
Incontinence of urine or stool 
It was a pleasure taking care of you during your hospital stay.
 

 
Followup Instructions:
___